US05378846
2-Acetyl-6-(Dimethylaminomethyl)-1,2,3,4-Tetrahydropyrrolo-[1,2-a]-Pyrazine
A mixture of 1.35 g of dimethylammonium chloride, 1.24 g of a 40% solution of formaldehyde, and 2.45 g of 2-acetyl-1,2,3,4-tetrahydropyrrolo-[1,2-a]-pyrazine was stirred for 4 hours at room temperature. 10 ml of water, alkalized with a 25% solution of ammonia, was added to the reaction mass and the product was extracted with benzene. Benzene was removed by distillation and the residue was distilled under vacuum to give 1.7 g (51.5%) of the title compound. The boiling point was 177°-178° C. at 1 mm Hg. Nmr (CDCl3): δ2.23 (s) (9H, CH3); 3.38 (s) (2H, CH2N); 3.8-4.2 (m) (4H, 3,4-CH2); 4.7 (s) (2H, 1-CH2); 5.8-5.95 (m) (1H, 7-H); 5.95-6.1 (m) (1H, 8-H). Anal. calculated for C12H19N3O: C 65.13%; H 8.65%; N 18.99%; and found: C 65.36%; H 8.76%; N 19.21%.

reactant | dimethylammonium chloride | 1.35 g | [Cl-].C[NH2+]C
reactant | formaldehyde | C=O | CH2O
reactant | 2-acetyl-1,2,3,4-tetrahydropyrrolo-[1,2-a]-pyrazine | 2.45 g | C(C)(=O)N1CC=2N(CC1)C=CC2 | C9H12N2O
reactant | ammonia | N | H3N
solvent | water | 10 ml | O | H2O
product | 2-Acetyl-6-(Dimethylaminomethyl)-1,2,3,4-Tetrahydropyrrolo-[1,2-a]-Pyrazine | 1.7 g, 51.5% | C(C)(=O)N1CC=2N(CC1)C(=CC2)CN(C)C | C12H19N3O
